US09403818B2
Preparation of 4-chloro-2-[1-cyclopropyl-2-methoxy-vinyl]-3-methyl-pyridine
A yellow suspension of (4-chloro-3-methylpyridin-2-yl) (cyclopropyl) methanone (2.99 g, 15.28 mmol), (Methoxymethyl) triphenylphosphonium chloride (7.84 g, 22.87 mmol) and Potassium tert-butoxide (3.41 g, 30.4 mmol) in toluene (50 mL) was heated to 60° C. and stirred for 3.5 h. The reaction mixture was cooled down to room temperature and an aqueous solution of 4M Hydrochloric acid (50 mL) was added. The reaction mixture was washed with toluene (3×50 mL). The aqueous layer was diluted in ice, and solid sodium bicarbonate was added until pH reaches 7-8. The mixture was extracted with ethyl acetate (3×100 mL). The combined organic layers were washed with brine, dried over sodium sulfate, filtrated and evaporated to dryness. The oily residue was purified by flash column chromatography over silica gel using a gradient of ethyl acetate in heptane to yield a 1 to 1 mixture of the isomeric vinyl ethers as yellow oil (2.93 g, 82%).

reactant | (4-chloro-3-methylpyridin-2-yl) (cyclopropyl) methanone | 15.28 mmol, 2.99 g | ClC1=C(C(=NC=C1)C(=O)C1CC1)C | C10H10ClNO
reactant | (Methoxymethyl) triphenylphosphonium chloride | 22.87 mmol, 7.84 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | Potassium tert-butoxide | 30.4 mmol, 3.41 g | CC(C)([O-])C.[K+]
reactant | Hydrochloric acid | 4M, 50 mL | Cl | ClH
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 4-chloro-2-[1-cyclopropyl-2-methoxy-vinyl]-3-methyl-pyridine | ClC1=C(C(=NC=C1)C(=COC)C1CC1)C | C12H14ClNO
